US04604132
Diethyl malonate (1.16 g) was added to a solution of sodium (158 mg) in dry absolute ethanol (10 ml) and the mixture was heated to reflux. 1-(2-Thiazolyl)but-1-en-3-one (1.0 g) in dry absolute ethanol (5 ml) was added dropwise to the solution. After refluxing for 2.5 hr, an aqueous potassium hydroxide solution (862 mg in 12 ml) was added and the mixture was extracted with diethyl ether. The aqueous layer was heated to 70° C. and neutralised with dilute hydrochloric acid and the water was then evaporated under reduced pressure. The residue was extracted with dry dimethylformamide. Evaporation of the solvent gave 3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one.

reactant | Diethyl malonate | 1.16 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 158 mg | [Na] | Na
reactant | 1-(2-Thiazolyl)but-1-en-3-one | 1.0 g | S1C(=NC=C1)C=CC(C)=O | C7H7NOS
reactant | potassium hydroxide | 12 ml, 862 mg | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(2-thiazolyl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C=1SC=CN1)=O | C9H9NO2S
